US07906517B2
2-Bromo-5′-isopropyl-5,2′-dimethoxy-4-trifluoromethyl-biphenyl (1.29 g) is dissolved in dry tetrahydrofuran (30 ml) and thereto is added dropwise 1.6M n-butyllithium in hexane at −78° C., and the mixture is stirred for 1 hour and thereto is added N,N-dimethylformamide (1.2 ml), and the mixture is stirred for 1.5 hours. To the reaction solution are added a saturated aqueous ammonium chloride solution and ethyl acetate, and the mixture is separated, and the organic layer is washed with a saturated brine, dried over magnesium sulfate, and concentrated under reduced pressure. The resulting residue is purified by silica gel column chromatography (hexane:ethyl acetate=49:1→17:3) to give 5′-isopropyl-5,2′-dimethoxy-4-trifluoromethyl-biphenyl-2-carbaldehyde (733 mg). MS (m/z): 353 [M+H]+

reactant | 2-Bromo-5′-isopropyl-5,2′-dimethoxy-4-trifluoromethyl-biphenyl | 1.29 g | BrC1=C(C=C(C(=C1)C(F)(F)F)OC)C1=C(C=CC(=C1)C(C)C)OC | C18H18BrF3O2
reactant | n-butyllithium | 1.6M | C(CCC)[Li]
reactant | N,N-dimethylformamide | 1.2 ml | CN(C=O)C | C3H7NO
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5′-isopropyl-5,2′-dimethoxy-4-trifluoromethyl-biphenyl-2-carbaldehyde | 733 mg | C(C)(C)C=1C=CC(=C(C1)C=1C(=CC(=C(C1)OC)C(F)(F)F)C=O)OC | C19H19F3O3
